US08865918B2
A solution of 2,2,6-trimethyl-1,2,3,4-tetrahydroquinoline (0.66 g, 3.8 mmol) in 10 mL of concentrated sulfuric acid was cooled to 0° C. in an ice bath. To this solution was added dropwise 1.0 mL 90% fuming nitric acid. The resulting mixture was stirred at 0° C. for 30 min., poured onto 150 mL of ice-water, neutralized to pH=7 with K2CO3 and extracted with CH2Cl2 (3×200 mL). The combined organic layers were washed with water (2×300 mL), saturated aqueous NaHCO3 (300 mL) and brine (300 mL). The solution was dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography (Silica gel, 15 to 20% ethyl acetate/hexane gradient elution) to give 2,2,6-trimethyl-7-nitro-1,2,3,4-tetrahydro-quinoline. 1H NMR (500 MHz, CDCl3): 8.03 (s, 1H), 7.05 (s, 1H), 2.85 (td, J=6.6, 1.1 Hz, 2H), 2.17 (s, 3H), 1.76 (t, J=6.6 Hz, 2H), 1.35 (s, 6H).

reactant | 2,2,6-trimethyl-1,2,3,4-tetrahydroquinoline | 3.8 mmol, 0.66 g | CC1(NC2=CC=C(C=C2CC1)C)C | C12H17N
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
product | 2,2,6-trimethyl-7-nitro-1,2,3,4-tetrahydro-quinoline | CC1(NC2=CC(=C(C=C2CC1)C)[N+](=O)[O-])C | C12H16N2O2
